US06130338
To a solution of 15.9 g (0.1 mol) of 1-benzyl-3-pyrroline, 12.0 g (0.12 mol) of 98% sulfuric acid, 15.0 g of water, and 60.0 g of acetone in a round flask reactor, 31.1 g (0. 13 mol) of 70% m-CPBA (m-chloroperbenzoic acid produced by Tokyo Chemical Industry Co., Ltd.) was added with stirring and allowed to react for 10 hours at 40° C. without irradiation by lamps. After completion, acetone was evaporated under reduced pressure, neutralized by NaOH (aq), and extracted with toluene and water. After the solvent was evaporated under reduced pressure, 17.4 g of 1-benzyl-3,4-dihydroxypyrrolidine (yield 90.0%) was obtained.

reactant | 1-benzyl-3-pyrroline | 0.1 mol, 15.9 g | C(C1=CC=CC=C1)N1CC=CC1 | C11H13N
reactant | sulfuric acid | 0.12 mol, 12.0 g | S(O)(O)(=O)=O | H2O4S
reactant | water | 15.0 g | O | H2O
reactant | m-CPBA | 13 mol, 31.1 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | acetone | 60.0 g | CC(=O)C | C3H6O
product | 1-benzyl-3,4-dihydroxypyrrolidine | 17.4 g, yield 90.0% | C(C1=CC=CC=C1)N1CC(C(C1)O)O | C11H15NO2
